US06218427B1
Reference Example 3 Methyl 6-butoxy-4-oxo-4H-chromen-3-carboxylate (VII-3)
6-Butoxy-4-oxo-4H-chromen-3-carbaldehyde (VI-2; 5 g, 0.02 mol) prepared by the method described in Steps 1 and 2 of the Reference Example 2 and N-bromo succinicimide (4.4 g) were refluxed in carbon tetrachloride (350 ml) for 1 h while it was irradiated externally with 250W Matsushita Electric tungsuten lamp. The mixture was allowed to cool in an ice-bath and anhydrous methanol (6 ml) was added slowly and stirred for additional 30 min. The solvent was removed under reduced pressure and the residue was dissolved in ethyl acetate. The organic layer was washed successively with water, 1 M sodium hydroxide, water and brine and dried. The solvent was evaporated under reduced pressure to give 6.2 g of an orange solid. Recrystallization from 95% ethanol afforded 4.3 g (77%) of compound (VII-3) as pale yellow prisms. m.p. 88-89° C.

reactant | 6-Butoxy-4-oxo-4H-chromen-3-carbaldehyde | 0.02 mol, 5 g | C(CCC)OC=1C=C2C(C(=COC2=CC1)C=O)=O | C14H14O4
reactant | methanol | 6 ml | CO | CH4O
solvent | carbon tetrachloride | 350 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 6-butoxy-4-oxo-4H-chromen-3-carboxylate | 6.2 g | C(CCC)OC=1C=C2C(C(=COC2=CC1)C(=O)OC)=O | C15H16O5
